US05612363
In a manner similar to Preparation 2 above, 3-[(2,3-dihydro-4,5-diphenyl-2-oxo-1H-imidazol-1-yl)methyl]benzonitrile was reacted with 7-(bromomethyl)naphthalene-2-carbonitrile to give 7-[[3-(3-cyanophenyl)methyl-2,3-dihydro-4,5-diphenyl-2-oxo-1H-imidazol-1-yl]methyl]naphthalene-2-carbonitrile; NMR (CDCl3) 8.05 (s, 1), 7.9 (d,1), 7.85 (d,1), 7.55 (m,3), 7.4 (m,2), 7.2 (m,9), 7.0 (m,3), 5.1 (s,2), 4.95 (s,2) ppm.

reactant | 3-[(2,3-dihydro-4,5-diphenyl-2-oxo-1H-imidazol-1-yl)methyl]benzonitrile | C1(=CC=CC=C1)C=1NC(N(C1C1=CC=CC=C1)CC=1C=C(C#N)C=CC1)=O | C23H17N3O
reactant | 7-(bromomethyl)naphthalene-2-carbonitrile | BrCC1=CC=C2C=CC(=CC2=C1)C#N | C12H8BrN
product | 7-[[3-(3-cyanophenyl)methyl-2,3-dihydro-4,5-diphenyl-2-oxo-1H-imidazol-1-yl]methyl]naphthalene-2-carbonitrile | C(#N)C=1C=C(C=CC1)CN1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=C2C=CC(=CC2=C1)C#N)=O | C35H24N4O
